US04351939
A mixture 3,3-tetramethyleneglutarimide (16.7 g., 0.1 mole) , 8-(2-pyrimidinyl)-8-aza-5-azoniaspiro[4.5]decane bromide (29.9 g., 0.1 mole) and potassium carbonate (16.6 g., 0.12 mole) in 190 ml. of dimethylformamide is maintained at 150°-155° C. for a reaction period of 24 hours and then evaporated to dryness under reduced pressure. The resulting solid is triturated with 90 ml. of water, taken up in 10% hydrochloric acid and filtered. The acid filtrate is made basic with 10% aqueous sodium hydroxide and precipitated free base collected and dried to provide 8-[4-[4-(2-pyrimidinyl)-1-piperazinyl]butyl]-8-azaspiro[4.5]decane-7,9-dione.

reactant | 3,3-tetramethyleneglutarimide | 0.1 mole, 16.7 g | C1CCC2(C1)CC(=O)NC(=O)C2 | C9H13NO2
reactant | 8-(2-pyrimidinyl)-8-aza-5-azoniaspiro[4.5]decane bromide | 0.1 mole, 29.9 g | [Br-].N1=C(N=CC=C1)N1CC[N+]2(CCCC2)CC1
reactant | potassium carbonate | 0.12 mole, 16.6 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 8-[4-[4-(2-pyrimidinyl)-1-piperazinyl]butyl]-8-azaspiro[4.5]decane-7,9-dione | N1=C(N=CC=C1)N1CCN(CC1)CCCCN1C(CC2(CCCC2)CC1=O)=O | C21H31N5O2
